* Analog Measurement System
* Initial analog measurement circuit

Vsignal in 0 SIN(0 0.01 1000)
Rload in out 1k
Cfilter out 0 100n

.tran 1u 5m
.print tran V(in) V(out)

.end